US07192968B2
(1R*,2R*)-4-Carbamoyloxymethyl-N1-[(5-chloroindol-2-yl)carbonyl]-N2-[(5-methyl-4,5,6,7-tetrahydrothiazolo-[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclopentanediamine (Stereoisomer A)
(1R*,2R*)-N1-[(5-Chloroindol-2-yl)carbonyl]-4-hydroxymethyl-N2-[(5-methyl-4,5,6,7-tetrahydrothiazolo-[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclopentanediamine (Stereoisomer A) (200 mg) was suspended in tetrahydrofuran (80 ml), and pyridine (100 μl) was added, and phenyl chloroformate (156 μl) was then added to stir the mixture at room temperature for 10 minutes. A saturated methanol solution (10 ml) of ammonia was added to the reaction mixture, and the mixture was left to stand overnight at room temperature. The reaction mixture was concentrated under reduced pressure, and a 1:9 mixed solvent (100 ml) of methanol and dichloromethane and a 1N aqueous solution (50 ml) of sodium hydroxide were added to the residue to conduct liquid separation. The resultant organic layer was then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by column chromatography on silica gel (dichloromethane:methanol=10:1). The thus-obtained colorless amorphous solid was suspended in 1N hydrochloric acid (1 ml), and the suspension was concentrated under reduced pressure to obtain the title compound (151 mg) as a pale yellow solid.

reactant | (1R*,2R*)-N1-[(5-Chloroindol-2-yl)carbonyl]-4-hydroxymethyl-N2-[(5-methyl-4,5,6,7-tetrahydrothiazolo-[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclopentanediamine | ClC=1C=C2C=C(NC2=CC1)C(=O)N[C@H]1[C@@H](CC(C1)CO)NC(=O)C=1SC=2CN(CCC2N1)C | C23H26ClN5O3S
reactant | pyridine | 100 μl | N1=CC=CC=C1 | C5H5N
reactant | phenyl chloroformate | 156 μl | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | ammonia | N | H3N
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | methanol | 10 ml | CO | CH4O
product | (1R*,2R*)-4-Carbamoyloxymethyl-N1-[(5-chloroindol-2-yl)carbonyl]-N2-[(5-methyl-4,5,6,7-tetrahydrothiazolo-[5,4-c]pyridin-2-yl)carbonyl]-1,2-cyclopentanediamine | 151 mg | C(N)(=O)OCC1C[C@H]([C@@H](C1)NC(=O)C=1NC2=CC=C(C=C2C1)Cl)NC(=O)C=1SC=2CN(CCC2N1)C | C24H27ClN6O4S
